US05201932
3-tert.-Butylaminocarbonyl-5-methyl-isoxazole-4-carboxylic acid (No. 3.002 in Table 3)
At from 5° to 10° C. and under a nitrogen blanket, 1.0 g (25.0 mmol) of sodium hydroxide in 50 ml of water was dripped into a solution of 5.4 g (21.3 mmol) of 4-ethoxycarbonyl-5-methyl-isoxazole-3-carboxylic acid-tert-butylamide in 100 ml of ethanol, and the mixture was stirred for 12 hours at room temperature. The solution was evaporated down, the residue was taken up in 150 ml of water, the pH was adjusted to 8-9, and the mixture was extracted twice, each time with 100 ml of diethylether. The aqueous phase was then acidified to a pH of 2 with 6N HCl, followed by extraction four times, each time with 200 ml of ethyl acetate. The combined organic phases were dried over magnesium sulfate and the solvent was stripped off under reduced pressure. Yield: 95%; yellow solid.

reactant | sodium hydroxide | 25.0 mmol, 1.0 g | [OH-].[Na+]
reactant | 4-ethoxycarbonyl-5-methyl-isoxazole-3-carboxylic acid-tert-butylamide | 21.3 mmol, 5.4 g | C(C)(C)(C)NC(=O)C1=NOC(=C1C(=O)OCC)C | C12H18N2O4
solvent | water | 50 ml | O | H2O
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | 3-tert.-Butylaminocarbonyl-5-methyl-isoxazole-4-carboxylic acid | Yield: 95% | C(C)(C)(C)NC(=O)C1=NOC(=C1C(=O)O)C | C10H14N2O4
